US06562811B1
To a cold (0° C.) solution of 2-fluoro-N-methoxy-6-[(4-methoxybenzyl)oxy]-N-methylbenzamide (6.926 g, 21.70 mmol) in tetrahydrofuran (10 mL) was added 1N methyl magnesium bromide in tetrahydrofuran (43.40 mL, 43.40 mmol). The reaction mixture was stirred at reflux for 4 hrs. After cooled to room temperature, the reaction mixture was quenched with saturated aqueous NaHCO3 solution, and extracted with ethyl acetate. The separated organic phase was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (hexane:ethyl acetate, 3/1) to give 1-{2-fluoro-6-[(4-methoxybenzyl)oxy]phenyl}ethanone as a pale yellow solid (1.21 g, yield; 20%).

reactant | 2-fluoro-N-methoxy-6-[(4-methoxybenzyl)oxy]-N-methylbenzamide | 21.70 mmol, 6.926 g | FC1=C(C(=O)N(C)OC)C(=CC=C1)OCC1=CC=C(C=C1)OC | C17H18FNO4
reactant | methyl magnesium bromide | 1N | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 43.40 mmol, 43.40 mL | O1CCCC1 | C4H8O
product | 1-{2-fluoro-6-[(4-methoxybenzyl)oxy]phenyl}ethanone | 1.21 g, yield; 20% | FC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(C)=O | C16H15FO3
